US07618984B2
5-Amino-1-chloro-4-bromoisoquinoline
A solution of 4-bromo-1-chloro-5-nitroisoquinoline (14.0 g) prepared according to the method described in a known literature (Nair et al., Indian J. Chem., 1967, 5, 403) in ethanol (75 ml) and tetrahydrofuran (75 ml) was added with 3% platinum-sulfur/activated carbon (3% Pt-S/C, NE Chemcat, CM011, 14.0 g), and the mixture was stirred at room temperature for 15 hours under a hydrogen gas atmosphere. The atmosphere was replaced with nitrogen gas, and then the insoluble matters were removed by filtration through Celite, and the solvent was evaporated under reduced pressure to obtain the title compound (12.8 g).

reactant | 4-bromo-1-chloro-5-nitroisoquinoline | 14.0 g | BrC1=CN=C(C2=CC=CC(=C12)[N+](=O)[O-])Cl | C9H4BrClN2O2
reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | platinum sulfur | 14.0 g | [Pt].[S]
product | 5-Amino-1-chloro-4-bromoisoquinoline | 12.8 g | NC1=C2C(=CN=C(C2=CC=C1)Cl)Br | C9H6BrClN2
